Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
pre-syncope, chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Patient is a ___ yo male with possible CAD, HTN, HLD who 
describes episodes of lightheadedness over several weeks, with 
an episode on day of admit that was associated with brief 
substernal chest discomfort. He was standing when he had brief 
acute-onset episode of rapidly resolving sharp substernal 
non-radiating chest pain. Immediately after, he felt light 
headed and like he would experience LOC with those sx. He had 
associated diaphoresis. He works as a ___ and was 
carrying a hose to the building when he developed the chest 
pain. He was wearing protective gear at that time. The chest 
pain had a duration of <1 min, however the pre-syncopal symptoms 
lasted ___ mins. He has been coughing, No hemoptysis, no 
history of pe or dvt, no ___ swelling or pain, no hormone use, no 
cancer history, no fam hx of sudden or early cardiac death. CP 
now resolved.  
 In the ED initial vitals were:  
 97.8 86 124/90 16 97% RA  
 EKG:  
 Labs/studies notable for: WBC 11.5, normal H/H, BNP 15, MB 4, 
trop negiative  
 Patient was given: 243 mg ASA  
 Vitals on transfer:  
 98.1 73 155/74 14 100% RA  
 
 On the floor patient is currently having no chest pain. He 
states that he has had prior presyncopal episodes and is being 
worked up with a stress test as an outpatient. He did not have 
CP with these prior episodes. He states that these episodes have 
been ongoing periodically for about the last year. He went ot 
the ___ for this recently, and was admitted for possible TIA. MRI 
brain and imaging of carotid arteries which were reassuring. He 
then underwent exercise stress test, but this had to be stopped 
due to SBP>200. At that time, he was started on a second 
anti-HTN. He then underwent a second stress test and was found 
to have "irregularilities". He saw a cardiologist and was told 
he likely had CAD. Cath was initially recommended, but then 
ultimately decided on repeat stress testing with imaging/echo.  
 He states that some episodes are during exertion, but some 
without. Has long standing neuropathy due to prior surgery, but 
no other numbness, tingling, weakness. No fevers, chills. Mild 
cough. He also states that he has been having some ___ muscle 
cramps intermittently, for which he is scheduled for ABI. The 
muscles cramps are not necessarily worse with exertion.  
 ROS:  
 Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope. Denies exertional buttock or calf pain.  
 On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies recent fevers, 
chills or rigors. All of the other review of systems were 
negative.  
 
Past Medical History:
Hypertension
Hyperlipidemia
Depression
PTSD
Multiple orthopedic surgeries
 
Social History:
___
Family History:
 No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
 VS: T=97.9 BP=138/78 HR=77 RR=16 O2 sat=100/RA  
 GENERAL: well appearing male in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with JVP of 5 cm.  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM
=======================
Vitals: T 98.1  HR 54-70 BP 121-131/78 RR 18 O2 99%/RA  
 I/O: 160/700+  
 Weight:  91.7kg
 Weight on admission:  
 Telemetry: sinus rhythm, occ PVCs  
 General:  well-appearing, NAD, sitting comfortably in bed. 
Mental status intact. Mood and affect appropriate.
 HEENT:  no JVD
 Lungs:  CTAB, no w/r/c. Good inspiratory effort and air 
movement.
 CV:  RRR, S1+S2, II/VI SEM
 Abdomen:  soft, NTND
 Ext:  warm and well-perfused, no edema, distal pulses 2+
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:30PM   GLUCOSE-86 UREA N-17 CREAT-1.2 SODIUM-135 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-22 ANION GAP-16
___ 07:30PM   CK(CPK)-294
___ 07:30PM   cTropnT-<0.01
___ 07:30PM   CK-MB-4 proBNP-15
___ 07:30PM   CALCIUM-8.9 PHOSPHATE-3.1 MAGNESIUM-1.8
___ 07:30PM   WBC-11.5* RBC-5.37 HGB-14.8 HCT-45.8 MCV-85 
MCH-27.6 MCHC-32.3 RDW-16.9* RDWSD-51.4*
___ 07:30PM   NEUTS-69.3 LYMPHS-17.6* MONOS-8.8 EOS-3.1 
BASOS-0.5 IM ___ AbsNeut-7.94* AbsLymp-2.01 AbsMono-1.01* 
AbsEos-0.35 AbsBaso-0.06
___ 07:30PM   PLT COUNT-265
___ 07:30PM   ___ PTT-30.1 ___

PERTINENT LABS
==============
___ 07:30PM   CK(CPK)-294
___ 07:30PM   cTropnT-<0.01

DISCHARGE LABS
==============
___ 06:30AM BLOOD WBC-9.4 RBC-5.58 Hgb-15.4 Hct-48.3 MCV-87 
MCH-27.6 MCHC-31.9* RDW-17.8* RDWSD-53.7* Plt ___
___ 03:13PM BLOOD PTT-47.9*
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD Glucose-109* UreaN-16 Creat-1.0 Na-139 
K-4.3 Cl-104 HCO3-27 AnGap-12
___ 06:30AM BLOOD Calcium-9.2 Phos-2.5* Mg-2.0

IMAGING
=======
CXR (___)
FINDINGS: 
Heart size is normal.  The aorta is mildly tortuous.  The 
mediastinal and hilar contours are otherwise unremarkable. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or pneumothorax is seen. There are no acute osseous 
abnormalities.
IMPRESSION: 
No acute cardiopulmonary abnormality.

ECHO (___)
The patient exercised for 13 minutes and 45 seconds according to 
a Modified ___ treadmill protocol ___ METS) reaching a peak 
heart rate of 134 bpm and a peak blood pressure of 170/60 mmHg. 
The test was stopped because of fatigue. This level of exercise 
represents a good exercise tolerance for age and gender. In 
response to stress, the ECG showed ischemic ST changes (see 
exercise report for details). with normal blood pressure and 
heart rate responses to stress. 
Resting images were acquired at a heart rate of 58 bpm and a 
blood pressure of 120/70 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Doppler demonstrated mild-moderate mitral 
regurgitation with no aortic stenosis, aortic regurgitation or 
significant resting LVOT gradient. The estimated pulmonary 
artery systolic pressure is normal. .
Echo images were acquired within 68 seconds after peak stress at 
heart rates 137 - 114 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments with slight 
decrease in cavity size. 
IMPRESSION: Good functional exercise capacity. Ischemic ECG 
changes in the absence of 2D echocardiographic evidence of 
inducible ischemia to achieved workload. Normal hemodynamic 
response to exercise. Mild-moderate mitral regurgitation at 
rest.

EXERCISE STRESS TEST (___)
INTERPRETATION: This ___ year old man with a h/o HTN and HLD was
referred to the lab for evaluation of multiple pre-syncopal 
events and
chest discomfort. The patient exercised for 13.75 minutes of a 
modified
___ protocol and stopped for fatigue. The estimated peak MET 
capacity
is 11.8, representing a good functional capacity for his age. 
There were no chest, neck, arm, back discomforts or pre-syncopal 
type symptoms reported by the patient throughout the study. At 
peak exercise, in the setting of excessive baseline artifact 
there appeared to be 1.5-2.0 mm horizontal to downsloping ST 
segment depression in leads II, III, aVF and 1.0 mm horizontal 
ST segment depression in leads V5-6. There was also 0.5-1.0 mm 
ST segment elevation in lead aVR. These changes resolved with 
rest and were absent by 4 minutes of recovery. The rhythm was 
sinus with occasional isolated APBs and one atrial couplet 
during exercise.
Immediately post-exercise there were two ___ beat runs of a 
narrow
complex PSVT (176-187 bpm) and occasional isolated APBs. 
Appropriate BP
and HR response to exercise and recovery.
IMPRESSION: Ischemic EKG changes in the setting of prominent 
voltage and absence of anginal or pre-syncopal type symptoms to 
achieved workload.
Appropriate hemodynamic response to exercise. Good functional 
capacity.
Echo report sent separately.
 
Brief Hospital Course:
___ with a PMHx of HTN, HLD who presents with pre-syncope and 
chest pain.  
 
#chest pain/presyncope: Concern for unstable angina. He had 
recent non-imaging stress testing that was concerning, per 
patient. Troponins were negative x 2 and EKG (anterior and 
posterior leads recorded) has been without acute ischemic 
changes. Pt was on heparin drip, ASA 81mh, metoprolol 25mg 
q8hrs, atorvastatin 80mg during admission. A stress echo was 
done, showing ischemic changes on EKG, in the absence of anginal 
symptoms or 2D echocardiographic evidence of inducible ischemia 
to achieved workload.
The decision was made to defer coronary angiogram. He 
understands that any recurrence of chest discomfort should 
prompt him to seek medical attention urgently, and at that point 
I recommend proceeding to coronary angiography.
He had brief SVT (? atrial tachycardia) on telemetry but was not 
symptomatic. He will have event monitor after discharge to 
evaluate episodes of lightheadedness/presyncope.
 
#leukocytosis: WBC count was 11.5 on admission. Down to 9.5 on 
___ without intervention. Issue resolved.  
 
#HTN: Continued lisinopril and metoprolol, dose increased as 
above.  
 
#neuropathic pain: Continued gabapentin 800mg TID 

TRANSITIONAL ISSUES:
=====================
[ ] Patient will be mailed ___ monitor for further 
work-up of syncope.
[ ] Metoprolol dose and atorvastatin dose were increased.
[ ] Follow up with Dr. ___ (cardiology at ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Viagra (sildenafil) 50 mg oral DAILY:PRN 
3. Metoprolol Tartrate 12.5 mg PO BID 
4. Lisinopril 10 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 
6. Gabapentin 800 mg PO TID 
7. Ibuprofen 800 mg PO Q8H:PRN pain 
8. Acetaminophen 500 mg PO Q6H:PRN pain 
9. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Gabapentin 800 mg PO TID 
4. Lisinopril 10 mg PO DAILY 
5. Acetaminophen 500 mg PO Q6H:PRN pain 
6. Ibuprofen 800 mg PO Q8H:PRN pain 
7. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
8. Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
9. Viagra (sildenafil) 50 mg oral DAILY:PRN 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
Chest pain
Syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your hospitalization at 
___. You were admitted for 
chest pain. Laboratory testing and EKGs showed that this was not 
a heart attack. You underwent a stress test, which showed 
non-specific changes on the EKG but no abnormalities on the 
ultrasound. Your medications were adjusted. You will be set up 
with an event monitor to wear. Your new cardiologist, Dr. ___ 
___ follow up with you.

We wish you the best!
- Your ___ Team
 
Followup Instructions:
___